US04794113
In 100 ml of tetrahydrofuran was dissolved 9 g of 5-(p-benzyloxyphenoxy)-2,2-dimethylpentanoic acid. The resulting solution was treated with a diazomethane-ether solution in a conventional manner to give methyl 5-(p-benzyloxyphenyloxy)-2,2-dimethylpentanoate. The thus obtained ester was dissolved in 200 ml of methanol and 10% palladium-carbon was added to the solution. The mixture was reacted with stirring in a hydrogen atmosphere under normal pressure until a theoretical amount of hydrogen was absorbed. Palladium-carbon was removed by filtration and the solvent was removed by distillation under reduced pressure to give the desired product, methyl 5-(p-hydroxyphenoxy)-2,2-dimethylpentanoate as crystals.

reactant | 5-(p-benzyloxyphenoxy)-2,2-dimethylpentanoic acid | 9 g | C(C1=CC=CC=C1)OC1=CC=C(OCCCC(C(=O)O)(C)C)C=C1 | C20H24O4
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl 5-(p-benzyloxyphenyloxy)-2,2-dimethylpentanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCC(C(=O)OC)(C)C | C21H26O4
